US07897762B2
To a suspension of N-ethyl-5-((4-fluoro-3-nitrophenylamino)methyl)-2-(methylthio)pyrimidin-4-amine (2.20 g, 6.5 mmol) in CH2Cl2 (25 mL) was added Et3N (2.7 mL, 20 mmol) followed by phosgene (20% solution in toluene, 4.3 mL, 7.8 mmol). The reaction mixture was stirred for 2 h at RT and then diluted with water. The organic layer was separated and washed with brine, dried (MgSO4) and concentrated to provide an orange yellow solid, which on stirring in ethyl acetate followed by filtration provided 1-ethyl-3-(4-fluoro-3-nitrophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one as a light yellow solid.

reactant | N-ethyl-5-((4-fluoro-3-nitrophenylamino)methyl)-2-(methylthio)pyrimidin-4-amine | 6.5 mmol, 2.20 g | C(C)NC1=NC(=NC=C1CNC1=CC(=C(C=C1)F)[N+](=O)[O-])SC | C14H16FN5O2S
reactant | Et3N | 20 mmol, 2.7 mL | CCN(CC)CC | C6H15N
reactant | phosgene | 7.8 mmol, 4.3 mL | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-ethyl-3-(4-fluoro-3-nitrophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | C(C)N1C(N(CC=2C1=NC(=NC2)SC)C2=CC(=C(C=C2)F)[N+](=O)[O-])=O | C15H14FN5O3S
